US07608563B2
A mixture of 278.7 g (1.87 mol) of 3,6-dichloropyridazine, 202.3 g (1.87 mol) of 2-methylphenol and 259 g (1.87 mol) of potassium carbonate was stirred at 160° C. for 6 hours. The reaction mixture was cooled to 70° C. and 2 L of ethyl acetate was added. This mixture was washed successively with 1 mol/L sodium hydroxide aqueous solution (4×500 mL), water (4×500 mL) and brine (50 mL), and dried over anhydrous magnesium sulfate. The solvent was removed, and isopropyl ether was added to the residue to form crystal. The crystal was collected by filtration to obtain 234.2 g (1.06 mol, Yield: 56.7%) of 3-chloro-6-(2-methylphenoxy)pyridazine.

reactant | 3,6-dichloropyridazine | 1.87 mol, 278.7 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 2-methylphenol | 1.87 mol, 202.3 g | CC1=C(C=CC=C1)O | C7H8O
reactant | potassium carbonate | 1.87 mol, 259 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | 3-chloro-6-(2-methylphenoxy)pyridazine | 1.06 mol, 234.2 g, Yield: 56.7% | ClC=1N=NC(=CC1)OC1=C(C=CC=C1)C | C11H9ClN2O
